US04024183
Lead oxide (PbO, 0.8 g.) is added to a solution of 1-(3-isobutylthioureido)-3-(3-p-chlorophenylureido)benzene (1.13 g.) in ethanol which has been saturated with ammonia gas (50 ml.). The mixture is stirred at room temperature for 7 days, the solids are filtered off, washed thoroughly with boiling ethanol and the combined filtrates are evaporated to dryness. The residual gum is dissolved in ethanol (5 ml.) and saturated ethereal hydrochloric acid (3 ml.) is added, followed by dry ether (150 ml.). The precipitated white solid is filtered off, washed with dry ether followed by cold isopropanol, and dried under reduced pressure, to give 1-(3-isobutylguanidino)-3-(3-p-chlorophenylureido)benzene hydrochloride, m.p. 212° C.

reactant | Lead oxide | 0.8 g | [Pb]=O
reactant | 1-(3-isobutylthioureido)-3-(3-p-chlorophenylureido)benzene | 1.13 g | C(C(C)C)NC(NC1=CC(=CC=C1)NC(=O)NC1=CC=C(C=C1)Cl)=S | C18H21ClN4OS
reactant | ammonia | 50 ml | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-isobutylguanidino)-3-(3-p-chlorophenylureido)benzene hydrochloride | Cl.C(C(C)C)NC(NC1=CC(=CC=C1)NC(=O)NC1=CC=C(C=C1)Cl)=N | InChI=1S/C18H22ClN5O.ClH/c1-12(2)11-21-17(20)22-15-4-3-5-16(10-15)24-18(25)23-14-8-6-13(19)7-9-14;/h3-10,12H,11H2,1-2H3,(H3,20,21,22)(H2,23,24,25);1H
